US08535974B2
Synthesis of 4,8-di-m-tolylbenzo[1,2-b:4,5-b′]dithiophene
A clean and dry 2000 ml round bottom flask equipped with reflux condenser, magnetic stir bar, and thermometer with adapter was prepared, purged, and then charged with 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophen-4,8-dione (7.34 g, 0.0333 mol). Anhydrous tetrahydrofuran (900.0 ml) was then added to this flask by cannula and stirring was initiated. Heat was applied to the reaction vessel to dissolve this material. The reaction vessel was placed into a water bath and m-tolylmagnesium bromide solution (100 ml, 0.1000 mol) was added via cannula. Following addition, the vessel was removed from the water bath and heated to reflux for 1 hour. The reaction was then removed from heat and allowed to cool to room temperature. m-tolylmagnesium bromide solution (100 ml, 0.1000 mol) was added via cannula and the reaction was again heated to reflux for 1 hour. The progress of the reaction was monitored by GC-MS and no starting material was present. The reaction was subsequently removed from heat and cool to room temperature overnight. A hydrochloric acid (160.0 ml, 10%)/tin (II) chloride (30.05 g, 0.1333 mol) solution was then prepared and added to the reaction via syringe. The reaction vessel was again heated to reflux for 1 hour, then removed from heat and allowed to cool to room temperature. Solvent was removed by rotary evaporation. Ethyl acetate (500.0 ml) was and the crude mixture was nearly dissolved. The volume was washed once with DI H2O (500 mL), and the organic layer containing solids was collected. Solids were removed by vacuum filtration, collected, and washed in hot methanol. The filtrate was dried over anhydrous magnesium sulfate, filtered, and removed of solvent by rotary evaporation. To the remaining crude material acetone (25.0 ml) and methanol (500.0 ml) were added and heated to reflux in trituration for 1 hour. The resulting solids in solution were vacuum-filtered and collected. All solids collected during purification were proved to be pure by NMR spectroscopy.

reactant | 4,8-dihydrobenzo[1,2-b:4,5-b′]dithiophen-4,8-dione | 0.0333 mol, 7.34 g | S1C2=C(C=C1)C(C=1SC=CC1C2=O)=O | C10H4O2S2
reactant | m-tolylmagnesium bromide | 0.1000 mol, 100 ml | C1(=CC(=CC=C1)[Mg]Br)C
reactant | m-tolylmagnesium bromide | 0.1000 mol, 100 ml | C1(=CC(=CC=C1)[Mg]Br)C
reactant | hydrochloric acid | 160.0 ml | Cl | ClH
reactant | tin (II) chloride | 0.1333 mol, 30.05 g | [Sn](Cl)Cl
solvent | tetrahydrofuran | 900.0 ml | O1CCCC1 | C4H8O
product | 4,8-di-m-tolylbenzo[1,2-b:4,5-b′]dithiophene | C1(=CC(=CC=C1)C1=C2C(SC=C2)=C(C2=C1SC=C2)C=2C=C(C=CC2)C)C | C24H18S2
